US05221685
(14) Synthesis of 2-(3-trifluoromethylbenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 14)
In toluene (40 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (2.0 g) and triethylamine (1.0 ml), and a solution of 3-trifluoromethylbenzoyl chloride (1.5 g) dissolved in toluene (10 ml) was gradually added thereto under cooling and the mixture was stirred at 103° C. for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 2.0 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethylbenzoyl chloride | 1.5 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-trifluoromethylbenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | FC(C=1C=C(C(=O)NC=2SC(C(N2)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F)C=CC1)(F)F | C15H5F13N2OS
